US04395577
Preparation of 2-Methyl-5-nitrobenzyl chloride
A solution of N-(2-methyl-5-nitrobenzyl)acetamide (3.12 g; 0.015 mol), phosphorus oxychloride (5.12 g; 0.032 mol) and dimethylformamide (2.19 g; 0.03 mol) in xylene (50 ml) is refluxed for one hour. The reaction mixture is then washed with water and the solvent evaporated. This treatment produces 2.36 g (i.e., 85% yield) of product having a melting point of 56° to 62° C.

reactant | N-(2-methyl-5-nitrobenzyl)acetamide | 0.015 mol, 3.12 g | CC1=C(CNC(C)=O)C=C(C=C1)[N+](=O)[O-] | C10H12N2O3
reactant | phosphorus oxychloride | 0.032 mol, 5.12 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 0.03 mol, 2.19 g | CN(C=O)C | C3H7NO
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Methyl-5-nitrobenzyl chloride | 85% yield | CC1=C(CCl)C=C(C=C1)[N+](=O)[O-] | C8H8ClNO2
